US09108926B2
4-[2-(Benzyloxy)-4-fluorophenyl]-5-fluoro-N-(3-{[(2-methoxyethyl)sulfonyl]methyl}phenyl)pyrimidin-2-amine
4N solution of hydrogen chloride in dioxane (0.11 mL; 0.45 mmol) was added to a stirred solution of 4-[2-(benzyloxy)-4-fluorophenyl]-2-chloro-5-fluoropyrimidine (150 mg; 0.45 mmol) and 3-{[(2-methoxyethyl)sulfonyl]methyl}aniline (155 mg; 0.68 mmol; UkrOrgSynthesis Ltd.) in 1-butanol (1.0 mL). The batch was stirred at 140° C. for 60 hours. After cooling the batch was diluted with ethyl acetate and sodium bicarbonate solution. The organic phase was filtered using a Whatman filter and concentrated. The residue was purified by preparative HPLC to give the desired product (19 mg; 0.04 mmol).

reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 0.45 mmol, 0.11 mL | O1CCOCC1 | C4H8O2
reactant | 4-[2-(benzyloxy)-4-fluorophenyl]-2-chloro-5-fluoropyrimidine | 0.45 mmol, 150 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C1=NC(=NC=C1F)Cl | C17H11ClF2N2O
reactant | 3-{[(2-methoxyethyl)sulfonyl]methyl}aniline | 0.68 mmol, 155 mg | COCCS(=O)(=O)CC=1C=C(N)C=CC1 | C10H15NO3S
solvent | 1-butanol | 1.0 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-[2-(Benzyloxy)-4-fluorophenyl]-5-fluoro-N-(3-{[(2-methoxyethyl)sulfonyl]methyl}phenyl)pyrimidin-2-amine | 0.04 mmol, 19 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C1=NC(=NC=C1F)NC1=CC(=CC=C1)CS(=O)(=O)CCOC | C27H25F2N3O4S
